US08685992B2
Preparation of 3-(4-methoxyphenyl)-5-phenyl-N-{4-[(pyridin-2-ylamino)carbonyl]benzyl}-1H-pyrrole-2-carboxamide
This material was prepared using a method substantially similar to that of Example 5 from 3-(4-methoxyphenyl)-5-phenyl-1H-pyrrole-2-carboxylic acid and 4-(aminomethyl)-N-pyridin-2-ylbenzamide hydrochloride, yielding the title compound. 3-(4-Methoxyphenyl)-5-phenyl-N-{4-[(pyridin-2-ylamino)carbonyl]benzyl}-1H-pyrrole-2-carboxamide: Yield 71%; m.p. 196° C. (dec.); IR 3402, 3239, 1623, 1536, 1432, 1304, 1246 cm−1; 1H-NMR (300 MHz, δ ppm, CDCl3) 9.75 (s, 1H), 8.77 (s, 1H), 8.39 (d, J=8.4 Hz, 1H), 8.29 (d, J=4.8 Hz, 1H), 7.88 (d, J=8.3 Hz, 2H), 7.77 (dt, J=7.0 Hz, J′=1.8 Hz, 1H), 7.57 (d, J=7.2 Hz, 2H), 7.45-7.27 (m, 7H), 7.07 (ddd, J=7.3 Hz, J′=5.0 Hz, J″=0.8 Hz, 1H), 6.90 (d, J=8.7 Hz, 2H), 6.49 (d, J=3.0 Hz, 1H), 6.13 (t, J=5.8 Hz, 1H), 4.52 (d, J=5.9 Hz, 2H), 3.82 (s, 3H); 13C-NMR (75 MHz, δ ppm, CDCl3) 165.7, 161.6, 159.7, 151.9, 148.1, 143.0, 138.8, 134.7, 133.6, 131.6, 430.9, 129.2, 128.3, 127.9, 127.8, 127.7, 125.0, 122.4, 120.1, 114.7, 109.9, 55.6, 43.1.

reactant | 3-(4-methoxyphenyl)-5-phenyl-1H-pyrrole-2-carboxylic acid | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)O | C18H15NO3
reactant | 4-(aminomethyl)-N-pyridin-2-ylbenzamide hydrochloride | Cl.NCC1=CC=C(C(=O)NC2=NC=CC=C2)C=C1
product | 3-(4-methoxyphenyl)-5-phenyl-N-{4-[(pyridin-2-ylamino)carbonyl]benzyl}-1H-pyrrole-2-carboxamide | Yield 71% | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)NCC1=CC=C(C=C1)C(=O)NC1=NC=CC=C1 | C31H26N4O3
